US07915281B2
Under a nitrogen atmosphere, ethoxyacetyl chloride (5.5 g, 45 mmol) was added dropwise to a solution of 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine (15.00 g, 40.67 mmol) and triethylamine (8.5 mL, 61 mmol) in dichloromethane (200 mL) at 6° C. After the reaction was stirred for 30 minutes, an analysis by HPLC indicated the presence of starting material, and additional ethoxyacetyl chloride (1.01 g) was added. The stirring was continued, and over the course of five hours, a total of 13 g of ethoxyacetyl chloride was added. The work-up procedure described in Part A of Example 19 was followed to provide N-[2-chloro-4-({[3-(4-fluorophenyl)isoxazol-5-yl]methyl}amino)quinolin-3-yl]-2-ethoxyacetamide as an orange solid.

reactant | ethoxyacetyl chloride | 45 mmol, 5.5 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | 2-chloro-N4-{[3-(4-fluorophenyl)isoxazol-5-yl]methyl}quinoline-3,4-diamine | 40.67 mmol, 15.00 g | ClC1=NC2=CC=CC=C2C(=C1N)NCC1=CC(=NO1)C1=CC=C(C=C1)F | C19H14ClFN4O
reactant | triethylamine | 61 mmol, 8.5 mL | C(C)N(CC)CC | C6H15N
reactant | ethoxyacetyl chloride | 1.01 g | C(C)OCC(=O)Cl | C4H7ClO2
reactant | ethoxyacetyl chloride | 13 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-[2-chloro-4-({[3-(4-fluorophenyl)isoxazol-5-yl]methyl}amino)quinolin-3-yl]-2-ethoxyacetamide | ClC1=NC2=CC=CC=C2C(=C1NC(COCC)=O)NCC1=CC(=NO1)C1=CC=C(C=C1)F | C23H20ClFN4O3
